US09163003B2
4-(4-Methoxy-benzoyl)-[1,3′]bipiperidinyl-2′-one
To a solution of methanesulfonic acid 2-oxo-piperidin-3-yl ester (250 mg, 1/294 mmol, 1.0 eq) and (4-methoxy-phenyl)-piperidin-4-yl-methanone (312 mg, 1.423 mmol, 1.1 eq) in acetonitrile (2.5 mL) was added diisopropylethylamine (351 mg, 0.475 mL, 2.1 eq) and the reaction was heated at 85° C. for 3 hours. The reaction was cooled to room temperature and the solvent evaporated in vacuo. The resulting oily residue was purified by silica gel column chromatography (MeOH/CH2Cl2) to give the title compound as a clear oil (142 mg, 0.449 mmol, 34.7% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.95 (d, J=9.09 Hz, 2H) 7.39-7.43 (br. s, 1H) 7.04 (d, J=8.59 Hz, 2H) 3.84 (s, 3H) 3.23-3.33 (m, 2H) 2.97-3.14 (m, 4H) 2.74-2.85 (m, 2H) 1.75-1.91 (m, 2H) 1.57-1.75 (m, 4H) 1.47-1.54 (m, 2H). MS (m/z, MH+): 316.8

reactant | methanesulfonic acid 2-oxo-piperidin-3-yl ester | 294 mmol, 250 mg, 1.0 eq | O=C1NCCCC1OS(=O)(=O)C | C6H11NO4S
reactant | (4-methoxy-phenyl)-piperidin-4-yl-methanone | 1.423 mmol, 312 mg, 1.1 eq | COC1=CC=C(C=C1)C(=O)C1CCNCC1 | C13H17NO2
reactant | diisopropylethylamine | 0.475 mL, 351 mg, 2.1 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
product | 4-(4-Methoxy-benzoyl)-[1,3′]bipiperidinyl-2′-one | 0.449 mmol, 142 mg, 34.7% yield | COC1=CC=C(C(=O)C2CCN(CC2)C2C(NCCC2)=O)C=C1 | C18H24N2O3
